US09359338B2
Step 3: Synthesis of 3-(3-(diphenylmethyleneamino)-5-(trifluoromethyl)phenyl)-5-methyloxazolidin-2-one
Add benzophenone imine (3.56 g, 2 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 43 mg, 0.069 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 90 mg, 0.098 mmol] and cesium carbonate (858 mg, 2.63 mmol) to the solution of 3-(3-bromo-5-(trifluoromethyl)phenyl)-5-methyloxazolidin-2-one (430 mg, 1.32 mmol) in dioxane (5 mL). Stir the mixture under nitrogen atmosphere at 100° C. overnight. TLC (PE:EtOAc=1:1) shows the reaction is complete. Filter the mixture and concentrate the filtrate to yield the crude product. Purify by flash chromatography (silica gel, PE:EtOAc=1:1) to afford the product (500 mg, 89%).

reactant | benzophenone imine | 2 mmol, 3.56 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 2.63 mmol, 858 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(3-bromo-5-(trifluoromethyl)phenyl)-5-methyloxazolidin-2-one | 1.32 mmol, 430 mg | BrC=1C=C(C=C(C1)C(F)(F)F)N1C(OC(C1)C)=O | C11H9BrF3NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.098 mmol, 90 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.069 mmol, 43 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 3-(3-(diphenylmethyleneamino)-5-(trifluoromethyl)phenyl)-5-methyloxazolidin-2-one | 500 mg, 89% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C=C(C1)C(F)(F)F)N1C(OC(C1)C)=O | C24H19F3N2O2
